US04855292
To 1-cyclopropyl-7-(3-amino-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.38 g) are added formic acid (3 ml), 37% formalin (3 ml) and sodium formate (0.4 g), and the mixture is refluxed for 5 hours. After cooling, the reaction mixture is poured into ice water and adjusted to below pH 8 with aqueous sodium hydrogen carbonate, and the mixture is extracted with dichloromethane. After removing the solvent by concentration, the resulting residue is recrystallized from ethanol-diethyl ether to give 1-cyclopropyl-7-(3-methylamino-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.1 g), as white powder, m.p. 185.5°-187.5° C. (decomp.)

reactant | 1-cyclopropyl-7-(3-amino-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.38 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)N)F)=O)C(=O)O | C18H20FN3O3
reactant | formalin | 3 ml | C=O | CH2O
reactant | sodium formate | 0.4 g | C(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | 1-cyclopropyl-7-(3-methylamino-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)NC)F)=O)C(=O)O | C19H22FN3O3
